US06268387B1
3-(4-Methyl-benzenesulfonylamino)-4-methoxy-N-phenyl-benzamide
Prepared according to the procedure described for Example 121 using 4-methylbenzenesulfonyl chloride (2.06 g, 10 mmol) and 3-amino-4-methoxy-N-phenyl-benzamide (2.43 g, 10.0 mmol) to afford the product (3.053 g); m.p. 200-202° C.

reactant | 4-methylbenzenesulfonyl chloride | 10 mmol, 2.06 g | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | 3-amino-4-methoxy-N-phenyl-benzamide | 10.0 mmol, 2.43 g | NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C14H14N2O2
product | 3-(4-Methyl-benzenesulfonylamino)-4-methoxy-N-phenyl-benzamide | 3.053 g | CC1=CC=C(C=C1)S(=O)(=O)NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C21H20N2O4S
